US09227978B2
tert-Butyl 4-(1-benzhydrylazetidin-3-yl)-3-(hydroxymethyl)piperazine-1-carboxylate
To a mixture of LiAlH4 (500 mg, 13.5 mmol) in THF (40 mL) at −40° C. under argon, a solution of 1-tert-butyl 3-methyl 4-(1-benzhydrylazetidin-3-yl)piperazine-1,3-dicarboxylate (1.8 g, 3.87 mmol) in THF (10 mL) was added dropwise. The reaction mixture was stirred at −5° C. to 5° C. for 1 h and cooled to −20° C. Then water (2 mL) and NaOH (15%) aqueous were added. The resulting mixture was stirred for 15 min. The solid was filtered, and the cake rinsed with ethyl acetate. The combined filtrate was dried over Na2SO4 and concentrated in vacuo to afford the product (1.6 g, 94% yield).

reactant | LiAlH4 | 13.5 mmol, 500 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-tert-butyl 3-methyl 4-(1-benzhydrylazetidin-3-yl)piperazine-1,3-dicarboxylate | 3.87 mmol, 1.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C27H35N3O4
reactant | water | 2 mL | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(1-benzhydrylazetidin-3-yl)-3-(hydroxymethyl)piperazine-1-carboxylate | 1.6 g, 94% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N1C(CN(CC1)C(=O)OC(C)(C)C)CO | C26H35N3O3
